Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]([C:3](=[C:4]=[O:5])[H:12])([N:6]([H:14])[H:15])([H:10])[H:11]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],83.2897326065073
[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C@@:5]1([C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],34.2334969826136
[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9]>>[N+:1]1([H:8])([H:9])[C:2](=[N:7][H:10])[N-:3]1.[O:4]=[C:5]=[O:6],48.253501389895
[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([H:11])[C:6]1=[C:7]([H:10])[H:14]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],83.17468603344888
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]1/[C:3](=[N:4]\[H:11])[C@@:5]1([O:6][H:10])[H:12])([H:7])([H:8])[H:9],53.9783695015567
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([C:5]#[N:6])([H:10])[H:11])[H:7],83.4850101711738
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9],20.1123462537742
[C:1]1([H:6])=[C:2]=[C:3]([H:7])[N:5]([H:10])[C:4]1([H:8])[H:9]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],64.48663086099626
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[H:7][H:10].[O:1]1[C:2]([H:8])([H:9])[C:3]1=[C:4]=[C:5]=[O:6],60.349331028352005
[C:4](=[C:5]([H:10])[H:11])([H:8])[H:9].[N:1]#[C:2][C:3](=[O:6])[H:7]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,51.623530501708
[C:1](=[C:2]([C:3]([O:4][H:14])([H:12])[H:13])[N:5]([C+:6]([O-:7])[H:16])[H:15])([H:8])[H:9].[H:10][H:11]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],83.4572230973119
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([C:7]1([H:17])[C:5]([H:15])=[C:6]1[H:16])[H:11])([H:8])([H:9])[H:10],78.10906000253759
[C:1]([C:2]([C:3]([H:12])([H:13])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:14])[H:16]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],64.13070169811792
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:5]([O:6][H:16])([H:9])([H:14])[H:15].[O:3]=[C:4]([H:12])[H:13],77.010856128723
[N:1]([C:5](=[C:4]=[C:2]=[O:3])[C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],59.26098524689324
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:4](=[O:5])([H:10])[H:11].[N:1]([C-:2]=[O+:3][C:6](=[O:7])[H:12])([H:8])[H:9],63.343219985075905
[C:1]([C:2](=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:11])[H:12].[H:13][H:14]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],31.4021883854721
[C:3](=[O:4])([H:10])[H:11].[O:1]([C:2](/[C:5](=[N:6]/[H:13])[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],75.61013144666761
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3]([C:4]([H:11])([H:12])[H:13])=[C:5](/[O:6][H:10])[H:14])([H:7])([H:8])[H:9],65.5651384299942
[O:1](/[C:5](=[N:6]\[C:7]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])([H:13])[H:14])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],80.58684228664356
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6][C:7]1([H:10])[H:15],89.35901722756029
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:12])[H:13].[H:11][H:14],53.9384438986528
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](/[C:5](=[N:4]/[H:11])[H:12])=[O:6])[H:10])([H:7])([H:8])[H:9],81.42165427603001
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[N:2](=[C:3]=[N:4][H:11])[C:5](=[O:6])[N:7]([H:13])[H:14],86.6489477780183
[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8]>>[C:2](=[O:3])=[O:4].[N:1]([C+:5]([N-:6][H:10])[H:9])([H:7])[H:8],45.7636542888935
